US07208524B2
To a solution of 131 mg of ethyl [2-[2-(5-carbamimidoyl-2-hydroxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]-acetate in 5 mL of N,N-dimethylformamide was added 0.91 mL of N,N-diisopropylethylamine. To the stirred mixture was added 0.069 mL of benzyl bromide at 40° C., and the mixture was stirred at room temperature over night. To the reaction mixture were added 0.91 mL of N,N-diisopropylethylamine and 86 mg of 4-nitrophenoxycarbonyloxymethyl 2,2-dimethylpropionate, and the mixture was stirred at room temperature for 6 hours. To the reaction mixture were added 10 mL of water and 10 mL of brine, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 99 mg of amino-[4-benzyloxy-3-[[2-[4-isopropyl-2-(ethoxycarbonylmethoxy)phenyl]-ethyl]sulfamoyl]phenyl]methylenecarbamoyloxymethyl 2,2-dimethylpropionate.

reactant | ethyl [2-[2-(5-carbamimidoyl-2-hydroxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]-acetate | 131 mg | C(N)(=N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(OCC(=O)OCC)C=C(C=C1)C(C)C)O | C22H29N3O6S
reactant | N,N-diisopropylethylamine | 0.91 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl bromide | 0.069 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N,N-diisopropylethylamine | 0.91 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-nitrophenoxycarbonyloxymethyl 2,2-dimethylpropionate | 86 mg | CC(C(=O)OCOC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(C)C | C13H15NO7
reactant | brine | 10 mL | [Cl-].[Na+].O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
product | amino-[4-benzyloxy-3-[[2-[4-isopropyl-2-(ethoxycarbonylmethoxy)phenyl]-ethyl]sulfamoyl]phenyl]methylenecarbamoyloxymethyl 2,2-dimethylpropionate | 99 mg | CC(C(=O)OC(OC(N=CC1=CC(=C(C=C1)OCC1=CC=CC=C1)S(NCCC1=C(C=C(C=C1)C(C)C)OCC(=O)OCC)(=O)=O)=O)N)(C)C | C36H45N3O10S
